US07456315B2
To a flask containing 0.94 g (0.002 mol) of methyl ether N′-(3,5-dimethyl-benzoyl)-N′-(2-methoxy-1,1-dimethyl-ethyl)-hydrazinecarboxylic acid benzyl ester, was added 10 mL of CH2Cl2, 0.87 g of Et3SiH, 0.10 g of palladium acetate, and 1 g of Et3N. The reaction mixture was stirred at room temperature for over 10 hours. More CH2Cl2 (10-20 mL) was added, and the mixture was filtered to remove the palladium. The brown CH2Cl2 solution was treated with MgSO4 and charcoal, then filtered and evaporated. The evaporation yielded 0.87 g of a red, oily solid. TLC indicated the presence of the product; Rf=0.44 in 1:1 ethyl acetate:hexane. The product was purified by chromatography, eluted with 19-20% ethyl acetate/hexane to yield 401 mg (80%) of 3,5-dimethyl-benzoic acid N-(2-methoxy-1,1-dimethyl-ethyl)-hydrazide product. 1H NMR (CDCl3, 300 MHz) δ (ppm): 7.1 (s, 2H), 7.0 (s, 1H), 3.682 (s, 2H), 3.377 (s, 3H), 2.319 (s, 6H), 1.495 (s, 3H).

reactant | methyl ether N′-(3,5-dimethyl-benzoyl)-N′-(2-methoxy-1,1-dimethyl-ethyl)-hydrazinecarboxylic acid benzyl ester | 0.002 mol, 0.94 g | C(C1=CC=CC=C1)OC(=O)NN(C(COC)(C)C)C(C1=CC(=CC(=C1)C)C)=O.COC
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | Et3SiH | 0.87 g | [SiH](CC)(CC)CC | C6H16Si
reactant | Et3N | 1 g | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | 10-20 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 0.10 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,5-dimethyl-benzoic acid N-(2-methoxy-1,1-dimethyl-ethyl)-hydrazide | 401 mg, 80% | COCC(C)(C)N(N)C(C1=CC(=CC(=C1)C)C)=O | C14H22N2O2
